US05294612
A solution of 1-(3-diethylaminopropyl)-3-methyl-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-amine in 50% sulfuric acid (25 ml) was cooled to 0° C. and stirred for 1 hour. A solution of sodium nitrite (0.78 g, 11.4 mmol) in water (5-7 ml) was added and the reaction mixture was stirred at 0° C. for 4 hours, then at room temperature for 24 hours. The reaction mixture was poured onto ice-water, treated with ammonium hydroxide and the pH adjusted to 7 with acetic acid. The aqueous layer was extracted with chloroform (4×250 ml) and the combined organic layers were dried over MgSO4 and concentrated in vacuo. The residue was recrystallized in tert-butylmethyl ether/chloroform to afford 0.51 g (66%) of 1-(3-diethylaminopropyl)-3-methyl-6-(4-pyridyl)pyrazolo[3,4-d]pyrimidin-4-one.1/2 hydrate as an off-white powder, m.p. 164°-166° C. when dried at 80° C. for 16 hours in high vacuum.

reactant | 1-(3-diethylaminopropyl)-3-methyl-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-amine | C(C)N(CCCN1N=C(C=2C1=NC(=NC2N)C2=CC=NC=C2)C)CC | C18H25N7
reactant | sodium nitrite | 11.4 mmol, 0.78 g | N(=O)[O-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 5-7 ml | O | H2O
product | 1-(3-diethylaminopropyl)-3-methyl-6-(4-pyridyl)pyrazolo[3,4-d]pyrimidin-4-one | 0.51 g, 66% | C(C)N(CCCN1NC(=C2C1=NC(=NC2=O)C2=CC=NC=C2)C)CC | C18H24N6O
